Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with history of mild mental retardation, 
dysarthria, and T2DM on glipizide now presenting with altered 
mental status. 

She reports new cough, and also feeling somewhat fatigued over 
the past week. Also complains of decreased PO intake. No fevers, 
chills, n/v/d, cp, sob, weakness/numbness/tingling in arms or 
legs, HA, neck ___, dysuria, confusion. She pressed her LifeLine 
button and was brought to the ED for further evaluation.

In the ED, initial VS were 97.7 78 187/87 18 97%.  
Her speech was noted to be garbled, and FSBG was 40 on arrival. 
She received 1 amp D50 with repeat FSBG 245; speech improved. 

Subsequent repeat FSBG dropped to 24. Toxicology was consulted 
and recommended octreotide given history of sulfonylurea use and 
question of toxicity. 

Initial labs notable for BUN 42, Cr 1.5 (baseline 1.3-1.4), Trop 
<0.01, Lactate 1.1. Coags and CBC wnl.

CXR showed hyperinflated lungs but no acute intrathoracic 
abnormality.

She received her first dose of octreotide at 18:30 and was 
transferred to the medicine floor for further management.

On arrival to the floor, patient reports feeling comfortable. 
She has no complaints.

 
Past Medical History:
h/o Falls
Chronic renal insufficiency (baseline 1.3-1.4)
Type 2 DM
HTN
hyperlipidemia
Mild developmental delay / dysphagia

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  97.4 163/65 77 18 100RA
FSBG 183
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
VS -  98.3 97.6 ___ 20 99-100RA
FSBG: ___ 157 147; received total of 6U SS humalog 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, poor dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
SELECTED LABS:
___ 02:00PM BLOOD WBC-5.4 RBC-4.45# Hgb-13.2# Hct-38.2# 
MCV-86 MCH-29.7 MCHC-34.6 RDW-13.6 Plt ___
___ 07:35AM BLOOD WBC-5.3 RBC-4.44 Hgb-13.4 Hct-37.9 MCV-85 
MCH-30.3 MCHC-35.4* RDW-13.7 Plt ___
___ 02:00PM BLOOD Neuts-77.1* Lymphs-14.9* Monos-7.4 
Eos-0.4 Baso-0.3

___ 02:00PM BLOOD ___ PTT-30.1 ___

___ 02:00PM BLOOD Glucose-131* UreaN-42* Creat-1.5* Na-133 
K-3.5 Cl-97 HCO3-24 AnGap-16
___ 07:35AM BLOOD Glucose-162* UreaN-35* Creat-1.4* Na-137 
K-4.4 Cl-102 HCO3-23 AnGap-16

___ 07:35AM BLOOD ALT-38 AST-43* LD(LDH)-195 AlkPhos-173* 
TotBili-0.4
___ 07:35AM BLOOD Albumin-3.7 Calcium-9.4 Phos-2.7 Mg-1.7
___ 07:35AM BLOOD %HbA1c-6.4* eAG-137*
___ 02:16PM BLOOD Lactate-1.1

IMAGING:
CXR ___:  
Hyperinflated lungs.No acute intrathoracic abnormality detected. 


MICROBIOLOGY:
___ 3:58 am URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 2:00 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ with history of mild mental retardation, 
dysarthria, and T2DM on glipizide now presenting with altered 
mental status.

# Hypoglycemia:
She was found to be hypoglycemic to the 20___ in the ED in the 
setting of sulfonylurea use and CKD. BG improved appropriately 
with D50. Toxicology was consulted, and given her sulfonylurea 
use she received 2 doses of octreotide. Finger sticks were 
monitored every four hours and she had no further hypoglycemic 
episodes. Oral antihyperglycemics were initially held and 
resumed on HD3. In consultation with ___ diabetes 
consultants, plan was made to resume glipizide at lower dose (5 
mg daily).

# UTI:
She was also noted to have UA consistent with UTI in setting of 
fatigue/confusion/hypoglycemia. She completed 3 day course of 
ciprofloxacin for treatment of UTI.

# Elevated LFTs:
She had LFTs mildly elevated above baseline, no 
nausea/vomiting/abd pain/diarrhea/constipation/fevers. LFTs 
subsequently downtrended and can be followed further in the 
outpatient setting.

CHRONIC ISSUES:
# Osteoporosis:
- On alendronate, continued at discharge

# HLD: 
- Continued atorvastatin

# HTN: BP remains well-controlled. 
- Continued losartan
- Continued metoprolol 

TRANSITION ISSUES:
# She completed a 3 day course of ciprofloxacin for UTI (last 
day ___.
# Her glipizide dose was reduced (discharged on 5mg daily) and 
repaglinide was held in setting of hypoglycemia. Her glycemic 
control will need close followup after discharge. Given history 
of hypoglycemia she may benefit from initiation of sitagliptin 
in the outpatient setting.
# Will need assistance arranging medication packaging such as 
bubble wrapping to increase medication compliance and avoid 
errors. 
# She was noted to have LFTs mildly elevated above baseline, 
which subsequently improved. Will need LFTs rechecked as an 
outpatient and if transaminitis persists, this may be further 
evaluated by RUQUS.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO Frequency is Unknown 
2. Atorvastatin 40 mg PO QPM 
3. GlipiZIDE XL 10 mg PO BID 
4. Losartan Potassium 50 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Repaglinide 0.5 mg PO TIDAC 
7. Aspirin 81 mg PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. Losartan Potassium 50 mg PO DAILY 
5. Alendronate Sodium 70 mg PO QMON 
6. Loratadine 10 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. GlipiZIDE 5 mg PO DAILY 
RX *glipizide 5 mg 1 tablet(s) by mouth Once daily Disp #*14 
Tablet Refills:*0
9. Equipment
Equipment: Bedside commode
Length of need: 13 months
Prognosis: good 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Hypoglycemia secondary to sulfonylurea medication
Urinary tract infection

SECONDARY DIAGNOSIS:
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to fatigue and confusion, and were 
found to have very low blood sugar. You were given medication to 
improve your blood sugar. You were also treated for urinary 
tract infection. 

After discharge, please follow up with your outpatient doctors 
as ___ below.
 
Followup Instructions:
___